US09238631B2
f) Di-tert-butyl (4S)-4-{4-[3-(benzyloxy)propyl]benzyl}-N-(tert-butoxycarbonyl)-L-glutamate
To a solution of 1.08 g (3.38 mmol) di-tert-butyl N-(tert-butoxycarbonyl)-L-glutamate in tetrahydrofuran (18 mL) at −78° C., lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide (1.0 M in tetrahydrofuran, 6.20 mL) was added dropwise. The solution was stirred for 2 h, then 1-[3-(benzyloxy)propyl]-4-(bromomethyl)benzene (1.01 g, 2.82 mmol) dissolved in 5 mL tetrahydrofuran were added slowly. The reaction was stirred for additional 2 h and then quenched by the addition of 10 mL of 2 N aqueous hydrogen chloride. The mixture was warmed to room temperature poured into 10 mL 1 N aqueous hydrogen chloride and extracted with dichloromethane (3×30 mL). The organic phases were dried over magnesium sulfate and concentrated in vacuo. The crude product was purified on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | di-tert-butyl N-(tert-butoxycarbonyl)-L-glutamate | 3.38 mmol, 1.08 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H33NO6
reactant | lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide | 1.0 M, 6.20 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 1-[3-(benzyloxy)propyl]-4-(bromomethyl)benzene | 2.82 mmol, 1.01 g | C(C1=CC=CC=C1)OCCCC1=CC=C(C=C1)CBr | C17H19BrO
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Di-tert-butyl (4S)-4-{4-[3-(benzyloxy)propyl]benzyl}-N-(tert-butoxycarbonyl)-L-glutamate | C(C1=CC=CC=C1)OCCCC1=CC=C(C[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C35H51NO7
